US09284323B2
A solution of (S)-ethyl 2-(5-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate (0.90 g, 1.7 mmol; prepared in a similar fashion to (S)-ethyl 2-tert-butoxy-2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate beginning with 1-(2-bromophenyl)propan-2-one) in THF (7 mL) cooled to 0° C. was treated with tetrabutylammonium fluoride (1M in THF, 1.7 mL, 1.7 mmol) dropwise. After 1 hour, saturated NaHCO3 and EtOAc were added and the aqueous layer extracted with EtOAc. The combined organics were washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. Purification via Yamazen column chromatography (0-15% EtOAc/hex) afforded (S)-ethyl 2-(5-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate. LCMS-ESI− (m/z): [M−H]− calcd for C19H22O4Br: 395.07. found: 395.04.

reactant | (S)-ethyl 2-(5-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate | BrC1=C2C=C(C(=C(C2=CC=C1)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)OC(C)(C)C)C | C20H22BrF3O6S
reactant | (S)-ethyl 2-tert-butoxy-2-(3,6-dimethyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C)OS(=O)(=O)C(F)(F)F | C21H25F3O6S
reactant | 1-(2-bromophenyl)propan-2-one | BrC1=C(C=CC=C1)CC(C)=O | C9H9BrO
reactant | tetrabutylammonium fluoride | 1.7 mmol, 1M, 1.7 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-ethyl 2-(5-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | BrC1=C2C=C(C(=C(C2=CC=C1)O)[C@@H](C(=O)OCC)OC(C)(C)C)C | C19H23BrO4
